US07612075B2
B. (±)-1-(3-Amino-4-cyano-benzyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester
Concentrated HCl (12M, one drop) is added at 0° C. to a mixture containing (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester (60 mg, 0.08 mmol) in MeOH (5 mL). Added THF (2 mL) followed by a second drop of 12M HCl and warmed reaction mixture to ambient temperature. The reaction is quenched by pouring the reaction mixture onto a 1:1 mixture of CH2Cl2/aqueous NaHCO3 and the layers are separated. The aqueous phase is washed with CH2Cl2 and then the combined organic phase is washed with brine, dried over anhydrous MgSO4, filtered and concentrated. The crude residue is chromatographed on silica gel (CH2Cl2 to 4% MeOH/CH2Cl2) to provide 42 mg (93%) of the title compound. 1H NMR (300 MHz, CDCl3) δ2.98 (dd, J=12.5, 3.5 Hz, 1H), 3.60 (d, J=16.8 Hz, 1H), 3.69 (d, J=15.3 Hz, 1H), 3.79 (s, 3H), 3.98 (m, 1H), 4.21-4.31 (m, 2H), 4.44 (br s, 2H), 5.36 (d, J=15.3 Hz, 1H), 6.47 (dd, J=8.0, 1.4 Hz, 1H), 6.54 (s, 1H), 7.26 (d, J=8.0 Hz, 1H), 7.45 (dd, J=8.5, 1.8 Hz, 1H), 7.80-7.86 (m, 3H) ppm; MS (ISP loop): m/z 519 (M+H).

reactant | (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 0.08 mmol, 60 mg | COC(=O)C1N(C(CN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)CC2=CC(=C(C=C2)C#N)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C35H27ClN4O5S2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | HCl | 12M | Cl | ClH
catalyst | HCl | 12M, one drop | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (±)-1-(3-Amino-4-cyano-benzyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 42 mg, 93% | COC(=O)C1N(C(CN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)CC2=CC(=C(C=C2)C#N)N | C22H19ClN4O5S2
